US09023846B2
STEP C: 8-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-6-methyl-2-(2-trifluoromethyl-phenyl)-7H-purine trifluoroacetic acid salt
A solution of 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid [5-amino-6-methyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-amide (45.8 mg, 0.106 mmol, prepared as described in the previous step) in 1,4-dioxane (10 mL) was treated with CSA (49.2 mg, 0.213 mmol) and heated to 100° C. under a reflux condenser for 3 h. The cooled mixture was then diluted with water (20 mL) and extracted twice with EtOAc (25 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified by RP-HPLC on a C18 column eluting with a linear gradient of 10-80% CH3CN in 0.1% TFA/H2O over 25 min to 8-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-methyl-2-(2-trifluoromethyl-phenyl)-7H-purine trifluoroacetic acid salt as an off-white solid. 1H-NMR (400 MHz, CD3OD) δ: 7.77 (d, J=7.6 Hz, 1H), 7.57-7.70 (m, 3H), 6.87 (s, 1H), 4.27 (s, 3H), 2.80 (s, 3H), 1.28 (s, 9H). Mass Spectrum (LCMS, APCI pos.): Calculated for C21H21F3N6: 415.2 (M+H); Measured: 415.2.

reactant | 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid [5-amino-6-methyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-amide | NC=1C(=NC(=NC1C)C1=C(C=CC=C1)C(F)(F)F)NC(=O)C=1N(N=C(C1)C(C)(C)C)C | C21H23F3N6O
reactant | CSA | 0.213 mmol, 49.2 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | water | 20 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 8-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-6-methyl-2-(2-trifluoromethyl-phenyl)-7H-purine trifluoroacetic acid salt | FC(C(=O)O)(F)F.C(C)(C)(C)C=1C=C(N(N1)C)C1=NC2=NC(=NC(=C2N1)C)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C21H21F3N6.C2HF3O2/c1-11-16-19(27-17(25-11)12-8-6-7-9-13(12)21(22,23)24)28-18(26-16)14-10-15(20(2,3)4)29-30(14)5;3-2(4,5)1(6)7/h6-10H,1-5H3,(H,25,26,27,28);(H,6,7)
